US07332495B2
IV-21 N1-(4-acetamidobenzyl)-N4-benzoylethyl piperazine dihydrochloride
A mixture of N-benzoylethyl piperazine dihydrochloride (1.5 g, 5 mmol), 4-acetamino-benzylchloride (1.1 g, 6 mmol) and K2CO3 (3.2 g, 24 mmol) in 60 ml of acetone was treated according to general preparation 2 to give compound (IV-21) yield 65%, mp 238-240° C. M+ 351.

reactant | N-benzoylethyl piperazine dihydrochloride | 5 mmol, 1.5 g | Cl.Cl.C(C1=CC=CC=C1)(=O)CCN1CCNCC1
reactant | 4-acetamino-benzylchloride | 6 mmol, 1.1 g | N(C(=O)C)C1=CC=C(CCl)C=C1 | C9H10ClNO
reactant | K2CO3 | 24 mmol, 3.2 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 60 ml | CC(=O)C | C3H6O
product | N1-(4-acetamidobenzyl)-N4-benzoylethyl piperazine dihydrochloride | yield 65% | Cl.Cl.C(C)(=O)NC1=CC=C(CN2CCN(CC2)CCC(C2=CC=CC=C2)=O)C=C1 | InChI=1S/C22H27N3O2.2ClH/c1-18(26)23-21-9-7-19(8-10-21)17-25-15-13-24(14-16-25)12-11-22(27)20-5-3-2-4-6-20;;/h2-10H,11-17H2,1H3,(H,23,26);2*1H
